US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimido-hexyloxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(a) from 7.0 g (24 mmol) of 2-(3-nitrobenzylidene)-acetoacetic acid isobutylester and 8.0 g (24 mmol) of 3-amino-crotonic acid-(6-phthalimidohexyl)ester. 14.6 g (quantitative) of an orange yellow oil which is used for further reactions without purification.

reactant | 2-(3-nitrobenzylidene)-acetoacetic acid isobutylester | 24 mmol, 7.0 g | C(C(C)C)OC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H17NO5
reactant | 3-amino-crotonic acid-(6-phthalimidohexyl)ester | 24 mmol, 8.0 g | C1(C=2C(C(N1CCCCCCOC(\C=C(\C)/N)=O)=O)=CC=CC2)=O | C18H22N2O4
product | 1,4-Dihydro-2,6-dimethyl-3-isobutoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimido-hexyloxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OCC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C33H37N3O8
